US07737177B2
Pseudomonic acid (10 g) was dissolved in isobutyl methyl ketone (120 ml). Calcium oxide (0.57 g) was suspended in water (68 ml), and added to the solution of pseudomonic acid. The mixture was stirred for one hour, and the phases were separated. The volume of the aqueous phase was reduced to 40 ml by vacuum distillation. The mixture was cooled to 5° C., and after standing for 15 hours, the crystalline product was filtered and washed with cooled water (10 ml). The product was then dried in an air circulated oven at RT. Mupirocin calcium dihydrate (3.7 g, 35%) was obtained.

reactant | Pseudomonic acid | 10 g | C[C@H]([C@H]1[C@@H](O1)C[C@H]2CO[C@H]([C@@H]([C@@H]2O)O)C/C(=C/C(=O)OCCCCCCCCC(=O)O)/C)[C@H](C)O | C26H44O9
reactant | Calcium oxide | 0.57 g | [O-2].[Ca+2]
solvent | isobutyl methyl ketone | 120 ml | CC(=O)CC(C)C | C6H12O
solvent | water | 68 ml | O | H2O
product | Mupirocin calcium dihydrate | 3.7 g, 35% | C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.C[C@@H]([C@@H](O)C)[C@@H]1O[C@H]1C[C@@H]2[C@H]([C@H]([C@@H](OC2)C/C(=C/C(=O)OCCCCCCCCC(=O)[O-])/C)O)O.O.O.[Ca+2] | InChI=1S/2C26H44O9.Ca.2H2O/c2*1-16(13-23(30)33-11-9-7-5-4-6-8-10-22(28)29)12-20-25(32)24(31)19(15-34-20)14-21-26(35-21)17(2)18(3)27;;;/h2*13,17-21,24-27,31-32H,4-12,14-15H2,1-3H3,(H,28,29);;2*1H2/q;;+2;;/p-2/b2*16-13+;;;/t2*17-,18-,19-,20-,21-,24+,25-,26-;;;/m00.../s1
